US05902896
It is also known that malonitrile can be reacted in glacial acetic acid, in the presence of potassium acetate, with gaseous formaldehyde at 100° C. to produce bis(methylol) malonitrile (Ardis, A. E.; Averill, S. J.; Gilbert, H.; Miller, F. F.; Schmidt, R. F.; Stewart, F. D.; and Trumbull, H. L.; J. Am. Chem. Soc., 72 (1950), 1305), although the yield is only 24% of the theoretical yield.

reactant | malonitrile | C(C(O)CC#N)#N | C4H4N2O
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | formaldehyde | C=O | CH2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | bis(methylol) malonitrile | C(O)C(C(C#N)O)(C#N)CO | C6H8N2O3
